* === Leakage 45nm HP ===
.include 45nm_HP.pm
.param VDDv = 1.0
.param Lmin = 45n
.param Wn = 4*Lmin
.param beta = 2.5

V1 vdd 0 {VDDv}
VIN in 0 0

MN out in 0 0 nmos L={Lmin} W={Wn}
MP out in vdd vdd pmos L={Lmin} W={beta*Wn}

.dc VIN 0 {VDDv} {VDDv}
.meas dc Ileak_lo FIND I(V1) AT 0
.meas dc Ileak_hi FIND I(V1) AT {VDDv}
.end
