* === A1: VTC del inversor CMOS - PTM 45nm HP ===
.include 45nm_HP.pm

.param VDDv = 1.0
.param Lmin = 45n
.param Wn = 4*Lmin
.param beta = 2

V1 vdd 0 {VDDv}
VIN in 0 0

MN out in 0 0 nmos L={Lmin} W={Wn}
MP out in vdd vdd pmos L={Lmin} W={beta*Wn}

.dc VIN 0 {VDDv} 2m
.step param beta 1 3 0.5
.meas dc VM FIND V(in) WHEN V(out)=V(in)
.end
